US08735436B2
Preparation of 2-((3Z,6Z,9Z,12Z,15Z)-octadeca-3,6,9,12,15-pentaen-1-yloxy)butanoic acid
A mixture of tert-butyl 2-((3Z,6Z,9Z,12Z,15Z)-octadeca-3,6,9,12,15-pentaen-1-yloxy)butanoate (2.09 g, 4.58 mmol) in HCOOH (9 mL) was stirred at 40° C. under N2-atmosphere for 6 hrs. The reaction mixture was diluted with diethyl ether (100 mL), washed with water (30 mL), dried (MgSO4), filtered and evaporated under reduced pressure. Dry-flash on silica gel (50 g) eluting with toluene-toluene/EtOAc (85:15) yielded 1.44 g of the crude title compound. Flash chromatography on silica gel (30 g) eluting with heptane-heptane/(EtOAc w/5% HCCOH) 98:2-95:5-80:20 yielded 1.07 g (58% yield) of the title compound as a liquid. 1H NMR (200 MHz, CDCl3) δ 0.97 (t, 3H), 0.99 (t, 3H), 1.75-1.91 (m, 2H), 2.00-2.15 (m, 2H), 2.35-2.48 (m, 2H), 2.78-2.87 (m, 8H), 3.47-3.62 (m, 2H), 3.86 (dd, 1H), 5.25-5.55 (m, 10H). MS (electrospray) (neg): 345 (M−H)−.

reactant | tert-butyl 2-((3Z,6Z,9Z,12Z,15Z)-octadeca-3,6,9,12,15-pentaen-1-yloxy)butanoate | 4.58 mmol, 2.09 g | C(C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)OC(C(=O)OC(C)(C)C)CC | C26H42O3
solvent | HCOOH | 9 mL | C(=O)O | CH2O2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 2-((3Z,6Z,9Z,12Z,15Z)-octadeca-3,6,9,12,15-pentaen-1-yloxy)butanoic acid | 1.07 g, 58% yield | C(C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)OC(C(=O)O)CC | C22H34O3
